US07781435B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (1-benzyl-1H-imidazol-4-yl)-amide
1-Benzyl-4-nitro-1H-imidazole was reduced and coupled with 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid to afford the title compound; MS 470 m/z (M+1).

reactant | 1-Benzyl-4-nitro-1H-imidazole | C(C1=CC=CC=C1)N1C=NC(=C1)[N+](=O)[O-] | C10H9N3O2
reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid | FC=1C=C(C=C(C1)F)CC(=O)NC(C(=O)O)CCC | C13H15F2NO3
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (1-benzyl-1H-imidazol-4-yl)-amide | C(C1=CC=CC=C1)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C23H24F2N4O2
